US07547691B2
(A). Preparation of 4-methyl-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester
Piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester (1.00 g, 4.11 mmol) is dissolved in THF (10 mL) and cooled to −78° C. 2.0 M Lithium diisopropyl amide in THF is added dropwise, then stirred for 1 hour. Iodomethane (0.563 mL, 9.04 mmol) is added and the mixture is stirred for 1 hour. The cold bath is removed and the reaction stirred for an additional 0.5 hour. The reaction mixture is quenched with saturated ammonium chloride (3 mL), concentrated, taken up in dichloromethane, and chromatographed on silica gel, eluting with EtOAc in dichloromethane 0-5%, to give the title compound as a slightly yellow oil. (680 mg, 64% yield).

reactant | Piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester | 4.11 mmol, 1.00 g | COC(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C12H21NO4
reactant | Lithium diisopropyl amide | 2.0 M | C(C)(C)[N-]C(C)C.[Li+]
reactant | Iodomethane | 9.04 mmol, 0.563 mL | IC | CH3I
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-methyl-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester | 64% yield | COC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)C | C13H23NO4
